US04304777
C-1. 4-Oxo-4-(4-pyridinyl)butanenitrile--To a stirred mixture containing 29.4 g. of sodium cyanide and 500 ml. of acetonitrile, after stirring said mixture for ten minutes, was added dropwise over a period of three hours a solution containing 64.2 g. of 4-pyridinecarboxaldehyde in 500 ml. of acetonitrile and the resulting mixture was stirred at room temperature for one hour. To the stirred mixture was added slowly over a period of one hour a solution of 24.5 g. of acrylonitrile in 200 ml. of acetonitrile and the resulting reaction mixture was stirred overnight at room temperature. The reaction mixture was stripped in vacuo of solvent at a temperature not exceeding 54° C. The semi-solid residue was cooled, mixed well with 400 ml. of chloroform, and the mixture filtered. The chloroform was distilled off in vacuo at a temperature not exceeding 50° C. and the residual oily residue was extracted with three 200 ml. portions of toluene. The toluene solution was filtered through diatomaceous earth and the filtrate was distilled in vacuo below 50° C. to remove the toluene. The residue on chilling crystallized. A tiny sample was saved and the remainder was dissolved in 50 ml. of warm isopropyl alcohol. The solution was cooled and then diluted slowly with 125 ml. of ether, chilled and seeded with a crystal obtained from said tiny sample. The crystalline product that separated was collected, washed with 25 ml. of 1:3 (v:v) mixture of isopropyl alcohol:ether, and air-dried to yield 52.1 g of 4-oxo-4-(4-pyridinyl)butanenitrile, m.p. 53.5°-55° C.

reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 4-pyridinecarboxaldehyde | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acrylonitrile | C(C=C)#N | C3H3N
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-oxo-4-(4-pyridinyl)butanenitrile | 52.1 g | O=C(CCC#N)C1=CC=NC=C1 | C9H8N2O
